US08440689B2
A. tert-Butyl (3R,4R)-4-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)tetrahydro-2H-pyran-3-ylcarbamate
To a suspension of 6-((3R,4R)-3-aminotetrahydro-2H-pyran-4-ylamino)-4-(m-tolylamino)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (13.0 mg, 0.037 mmol) in DCM (368 μL) was added Et3N (6.05 μL, 0.043 mmol) and di-tert-butyl dicarbonate (Boc anhydride) (39.0 μL, 0.039 mmol). The suspension was sonicated for 5 min and then stirred at RT for 12 h. The solution was diluted with DCM (15 mL) and washed with water (10 mL) and brine (10 mL). The organic layer was collected, dried over Na2SO4 and concentrated to give the title compound as a light yellow residue, which was used without further purification (15.2 mg, 91%). [M+H] calc'd for C24H31N5O4, 454. found, 454.

reactant | 6-((3R,4R)-3-aminotetrahydro-2H-pyran-4-ylamino)-4-(m-tolylamino)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 0.037 mmol, 13.0 mg | N[C@H]1COCC[C@H]1NC1=CC2=C(C(=N1)NC=1C=C(C=CC1)C)C(NC2)=O | C19H23N5O2
reactant | Et3N | 0.043 mmol, 6.05 μL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.039 mmol, 39.0 μL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 368 μL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (3R,4R)-4-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)tetrahydro-2H-pyran-3-ylcarbamate | O=C1NCC2=C1C(=NC(=C2)N[C@H]2[C@H](COCC2)NC(OC(C)(C)C)=O)NC=2C=C(C=CC2)C | C24H31N5O4
